US08871788B2
6-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-2-(tetrahydro-pyran-4-yl)-3,4-dihydro-2H-isoquinolin-1-one
An 8-mL vial containing a stir bar was charged with Pd2(dba)3 (0.01 equiv., 4 pmol, 4 mg.), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl 1 (0.05 equiv., 0.02 mmol, 10 mg) and sodium t-butoxide (2.5 equiv., 1.03 mmol, 99 mg.). To this solution was transferred a solution of 6-chloro-2-(tetrahydro-pyran-4-yl)-3,4-dihydro-2H-isoquinolin-1-one (110 mg, 0.41 mmol) in anhydrous toluene (2 mL) under N2 with stirring at rt. Then, a solution of the (2S,3′S)-2-methyl-[1,3]-bipyrrolidinyl (1.3 equiv., 0.53 mmol, 83 mg) in anhydrous toluene (2 mL) was transferred. The vial was capped with a rubber septum, evacuated and backfilled with N2. To this vial was introduced 2 mL of anhydrous toluene. The reaction was heated in an oil bath set at 90° C. for 5 h, allowed to cool down to room temperature and quenched with water (2 mL). Extraction with ethyl acetate (3×10 mL) followed by chromatography on silica gel column with 0-5% 7N NH3/MeOH in DCM to give 85 mg (54% yield) of the title compound as a yellow solid.

reactant | sodium t-butoxide | 1.03 mmol, 99 mg, 2.5 equiv. | CC(C)([O-])C.[Na+]
reactant | 6-chloro-2-(tetrahydro-pyran-4-yl)-3,4-dihydro-2H-isoquinolin-1-one | 0.41 mmol, 110 mg | ClC=1C=C2CCN(C(C2=CC1)=O)C1CCOCC1 | C14H16ClNO2
reactant | (2S,3′S)-2-methyl-[1,3]-bipyrrolidinyl | 0.53 mmol, 83 mg, 1.3 equiv. | C[C@@H]1N(CCC1)[C@@H]1CNCC1 | C9H18N2
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 4 pmol, 4 mg, 0.01 equiv. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 0.02 mmol, 10 mg, 0.05 equiv. | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
product | 6-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-2-(tetrahydro-pyran-4-yl)-3,4-dihydro-2H-isoquinolin-1-one | 85 mg, 54% yield | C[C@@H]1N(CCC1)[C@@H]1CN(CC1)C=1C=C2CCN(C(C2=CC1)=O)C1CCOCC1 | C23H33N3O2
